US09029536B2
C) Ethyl 3-[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl]-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)propanoate
A mixture of ethyl 3-[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl]-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)acrylate (100 mg) and 10% Pd—C (18.74 mg) in EtOH (10 mL) was hydrogenated under balloon pressure at room temperature overnight. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to give the title compound (91 mg).

reactant | ethyl 3-[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl]-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)acrylate | 100 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)C(=CC(=O)OCC)C2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C32H37N5O3Si
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd—C | 18.74 mg | [Pd] | Pd
product | Ethyl 3-[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl]-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)propanoate | 91 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)C(CC(=O)OCC)C2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C32H39N5O3Si
